US06130220
Proceeding as described in Example 19, Step 3, but substituting 1-benzyloxycarbonyl-4-(5-cyano-1-methanesulfonylindol-3-yl)piperidine with 1-benzyloxycarbonyl-4-[5-cyano-1-(2-trimethylsilylethanesulfonyl)indol-3-yl]piperidine (prepared as described in Example 14, Step 2, by substituting 1-benzyloxycarbonyl-4-(5-cyanoindol-3-yl)piperidine for N-tert-butoxycarbonyl-4-(5-fluoroindol-3-yl)piperidine] gave 4-[5-cyano-1-(2-trimethylsilyl-ethanesulfonyl)indol-3-yl]piperidine.

reactant | 1-benzyloxycarbonyl-4-[5-cyano-1-(2-trimethylsilylethanesulfonyl)indol-3-yl]piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)CC[Si](C)(C)C | C27H33N3O4SSi
reactant | N-tert-butoxycarbonyl-4-(5-fluoroindol-3-yl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)F | C18H23FN2O2
product | 4-[5-cyano-1-(2-trimethylsilyl-ethanesulfonyl)indol-3-yl]piperidine | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)C1CCNCC1 | C19H27N3O2SSi
